US06599902B2
A solution of (R)-2-(cyclopropyl-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (958 mg, 3.57 mmol) in 50% TFA in DCM (5 mL) was stirred at rt for 4 hours. The reaction was concentrated and purified to give (R)-pyrrolidine-2-carboxylic acid cyclopropyl-methyl-amide.

reactant | (R)-2-(cyclopropyl-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.57 mmol, 958 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(N(C)C1CC1)=O | C14H24N2O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-pyrrolidine-2-carboxylic acid cyclopropyl-methyl-amide | C1(CC1)N(C(=O)[C@@H]1NCCC1)C | C9H16N2O
